US08071993B2
Next, 25.0 g (0.10 mol) of tert-butylpyrene and 250 ml of DME (1,2-dimethoxyethane) were charged in a reaction vessel, and the mixture was cooled to 0° C. Next, NBS was added in an amount of 4 equivalents relative to tert-butylpyrene, and the resulting mixture was stirred overnight at room temperature, filtered, and recrystallized to produce 29.5 g of bromo-tert-butylpyrene crystals in a yield of 90%.

reactant | tert-butylpyrene | 0.10 mol, 25.0 g | C(C)(C)(C)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C20H18
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DME | 250 ml | COCCOC | C4H10O2
product | bromo-tert-butylpyrene | 29.5 g, yield of 90% | BrC1=C(C2=CC=C3C=CC=C4C=CC(=C1)C2=C43)C(C)(C)C | C20H17Br
